### PR TITLE
[Merged by Bors] - feat(NormedSpace/Alternating/Uncurry/Fin): new file

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean [hunk 1]
```diff
@@ -0,0 +1,167 @@
+/-
+Copyright (c) 2025 Yury Kudryashov. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yury Kudryashov
+-/
+import Mathlib.Analysis.NormedSpace.Alternating.Curry
+import Mathlib.LinearAlgebra.Alternating.Uncurry.Fin
+
+/-!
+# Uncurrying continuous alternating maps
```
Comment (PatrickMassot) [inline Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean:10]: The line breaks in this module docstring are a bit random, could you try to make them more homogeneous?

File: Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean [hunk 2]
```diff
@@ -0,0 +1,167 @@
...
+
+Given a continuous function `f` which is linear in the first argument
+and is alternating form in the other `n` arguments,
+this file defines a continuous alternating form `ContinuousAlternatingMap.uncurryFin f`
+in `n + 1` arguments.
```
Comment (PatrickMassot) [inline Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean:15]: I don’t understand the name of this function. To me `curry` and `uncurry` suggest a mere repackaging without any mathematical content. Here there is some content. And on top of that it’s not even the inverse of `curryLeft`.

File: Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean [hunk 3]
```diff
@@ -0,0 +1,167 @@
...
+private def uncurryFinCLM.aux : (E →L[𝕜] E [⋀^Fin n]→L[𝕜] F) →ₗ[𝕜] E [⋀^Fin (n + 1)]→ₗ[𝕜] F :=
+  AlternatingMap.uncurryFinLM ∘ₗ (toAlternatingMapLinear (R := 𝕜)).compRight (S := 𝕜) ∘ₗ
+    ContinuousLinearMap.coeLM 𝕜
+
+private lemma uncurryFinCLM.aux_apply (f : E →L[𝕜] E [⋀^Fin n]→L[𝕜] F) (v : Fin (n + 1) → E) :
+    aux f v = ∑ i : Fin (n + 1), (-1) ^ (i : ℕ) • f (v i) (i.removeNth v) := by
+  simp [aux, AlternatingMap.uncurryFin_apply]
+
+variable (𝕜 E F) in
+/-- `AlternaringMap.uncurryFin` as a linear map. -/
```
Comment (PatrickMassot) [inline Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean]:
```suggestion
/-- `AlternaringMap.uncurryFin` as a continuous linear map. -/
```

File: Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean [hunk 4]
```diff
@@ -0,0 +1,167 @@
...
+    uncurryFin (c • f) = c • uncurryFin f := by
+  ext v
+  simp [uncurryFin_apply, smul_comm _ c, Finset.smul_sum]
+
+/-- If `f` is a symmetric continuous bilinear map
+taking values in the space of continuous alternating maps,
+then the twice uncurried `f` is zero. -/
+theorem uncurryFin_uncurryFinCLM_comp_of_symmetric {f : E →L[𝕜] E →L[𝕜] E [⋀^Fin n]→L[𝕜] F}
+    (hf : ∀ x y, f x y = f y x) :
+    uncurryFin (uncurryFinCLM 𝕜 E F ∘L f) = 0 := by
```
Comment (PatrickMassot) [inline Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean]: The mix of `uncurryFin` and `uncurryFinCLM` looks a bit strange here. Should we also have homogeneous versions?

File: Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean:15]: What name would you suggest? This operation is as close to a left inverse to `curryLeft` as we can get without using division.

File: Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean (hunk 4 above)
Comment (urkud) [reply Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean]: The argument to `uncurryFin` has to be a `ContinuousLinearMap`, so we can't use `uncurryFin` inside. However, for the outer function, `uncurryFin` is the `simp`-normal form.

File: Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean:10]: AFAIR, I tried to use https://sembr.org/

File: Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean (hunk 2 above)
Comment (PatrickMassot) [reply Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean:15]: But its domain is much larger than the image of `curryLeft`, right? So its name should mention that is creates antisymmetry, right?

Comment (urkud) [reply Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean:15]: I'm happy to rename it, if you have a better suggestion.

Comment (urkud) [reply Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean:15]: I've started a Zulip conversation https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/naming.20convention.3A.20AlternatingMap.2Euncurry*.3F/with/541779728

Comment (urkud) [reply Mathlib/Analysis/NormedSpace/Alternating/Uncurry/Fin.lean:15]: @PatrickMassot I renamed to `alternatizeUncurryFin`. Is it better?

**Comment by PatrickMassot** [comment]
bors merge
